US07405300B2
2-Chloro-1H-indole-3-carboxaldehyde is reacted with 3-bromophenylboronic acid as described in Step 1 of Example 29 to afford 1-(3-bromophenyl)-2-chloro-1H-indole-3-carboxaldehyde (87% yield) as a cream solid. ESI/MS 334 (M), 375 [(M+2+CH3CN) adduct]; RT 3.59 min.

reactant | 2-Chloro-1H-indole-3-carboxaldehyde | ClC=1NC2=CC=CC=C2C1C=O | C9H6ClNO
reactant | 3-bromophenylboronic acid | BrC=1C=C(C=CC1)B(O)O | C6H6BBrO2
product | 1-(3-bromophenyl)-2-chloro-1H-indole-3-carboxaldehyde | 87% yield | BrC=1C=C(C=CC1)N1C(=C(C2=CC=CC=C12)C=O)Cl | C15H9BrClNO
